US07015218B1
2-Chloro-5-nitrobenzoic acid (500 g) was added to a mixed solvent of dimethylformamide (500 ml) and toluene (1.5 Liters). Thionyl chloride (217 ml) was added thereto at room temperature with stirring and the mixture was stirred at a refluxing temperature for 3 h. The reaction mixture was then ice-cooled and added dropwise to 28% aqueous amonia (750 ml). The mixture was stirred further for 1 h. The precipitated crystals were collected by filtration, and the crystals were recrystallized from hydrous ethanol to give 2-chloro-5-nitrobenzamide (346 g), melting point: 177–179° C.

reactant | 2-Chloro-5-nitrobenzoic acid | 500 g | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
reactant | Thionyl chloride | 217 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-5-nitrobenzamide | 346 g | ClC1=C(C(=O)N)C=C(C=C1)[N+](=O)[O-] | C7H5ClN2O3
